US08198451B2
Moxifloxacin base 50.0 g was stirred in 200.0 ml methanol for 10-15 minutes at 25-3-° C. The pH was adjusted to 1.0-2.0 using methanolic hydrochloric acid. The reaction mass was chilled to 0-5° C. and maintained for 1 hour. The solids were filtered and dried under vacuum at 85-90° C. to yield 52.5 g (105%) of moxifloxacin hydrochloride.

reactant | Moxifloxacin | 50.0 g | COC1=C2C(=CC(=C1N3C[C@@H]4CCCN[C@@H]4C3)F)C(=O)C(=CN2C5CC5)C(=O)O | C21H24FN3O4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200.0 ml | CO | CH4O
product | moxifloxacin hydrochloride | 52.5 g, 105% | COC1=C2C(=CC(=C1N3C[C@@H]4CCCN[C@@H]4C3)F)C(=O)C(=CN2C5CC5)C(=O)O.Cl | InChI=1S/C21H24FN3O4.ClH/c1-29-20-17-13(19(26)14(21(27)28)9-25(17)12-4-5-12)7-15(22)18(20)24-8-11-3-2-6-23-16(11)10-24;/h7,9,11-12,16,23H,2-6,8,10H2,1H3,(H,27,28);1H/t11-,16+;/m0./s1
